US07683058B2
1b N-[4-Amino-6-methyl-2-(4-trifluoromethylbenzylamino)-pyrimidin-5-yl]-3,3-dimethylbutyramide
To a cold stirred solution (ice/water bath) of 6-methyl-N*2*-(4-trifluoromethyl-benzyl)-pyrimidine-2,4,5-triamine (341 mg, 1.15 mmol) in acetonitril (7.5 ml), tert-butylacetyl chloride (0.16 ml, 1.15 mmol) was added dropwise in 2 min. Cold bath was removed and stirring continued for 45 min. The obtained reaction mixture was poured into SCX column (10 g, H+ form), washed with acetonitrile (20 ml), methanol (100 ml), and the product was eluted with 4M NH3 in methanol (60 ml). The volatiles were removed in vacuo and the crude product was purified by flash chromatography on silica gel (20 g) with gradient heptane-ethyl acetate to give 153 mg of solid. Yield 33.7%. LC-MS (m/z) 395.9 (MH+); tR=2.00. 1H NMR (500 MHz, DMSO-d6): 1.02 (s, 9H), 1.96 (s, 3H), 2.15 (s, 2H), 4.5 (d, 2H), 5.9 (br, 2H, NH2), 6.97 (br, 1H, NH), 7.5 (d, 2H), 7.65 (d, 2H), 8.57 (s, 1H, NHCO).

reactant | 6-methyl-N*2*-(4-trifluoromethyl-benzyl)-pyrimidine-2,4,5-triamine | 1.15 mmol, 341 mg | CC1=C(C(=NC(=N1)NCC1=CC=C(C=C1)C(F)(F)F)N)N | C13H14F3N5
reactant | tert-butylacetyl chloride | 1.15 mmol, 0.16 ml | C(C)(C)(C)CC(=O)Cl | C6H11ClO
solvent | acetonitril | 7.5 ml | C(C)#N | C2H3N
product | N-[4-Amino-6-methyl-2-(4-trifluoromethylbenzylamino)-pyrimidin-5-yl]-3,3-dimethylbutyramide | 153 mg, Yield 33.7% | NC1=NC(=NC(=C1NC(CC(C)(C)C)=O)C)NCC1=CC=C(C=C1)C(F)(F)F | C19H24F3N5O
